US08022062B2
4-(Pyridine-3-carbonyl)-benzyl alcohol:
Add tetrabutylammonium fluoride (1.37 mL, 1.37 mmol, 1M solution in THF) to a solution of [4-(tert-butyldimethylsilyloxymethyl)-phenyl]-pyridin-3-yl-methanone (225 mg, 0.687 mmol) in anhydrous THF (10 mL) at 0° C. and stir at this temperature for 1 h. Concentrate the solvent in vacuo and purify the crude mixture by chromatography on silica gel eluting with EtOAc to provide the desired intermediate (85 mg, 58%). MS (ES+) m/z: 214 (M+H)+.

reactant | tetrabutylammonium fluoride | 1.37 mmol, 1M, 1.37 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | [4-(tert-butyldimethylsilyloxymethyl)-phenyl]-pyridin-3-yl-methanone | 0.687 mmol, 225 mg | [Si](C)(C)(C(C)(C)C)OCC1=CC=C(C=C1)C(=O)C=1C=NC=CC1 | C19H25NO2Si
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-(Pyridine-3-carbonyl)-benzyl alcohol | 85 mg, 58% | N1=CC(=CC=C1)C(=O)C1=CC=C(CO)C=C1 | C13H11NO2
